US06448266B1
Ethyl 3-[1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutan-3-yl]-3-hydroxypropionate
A 38.84 g (99.22 mmol) portion of ethyl 3-[1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutan-3-yl]-3-oxopropionate was dissolved in 300 ml of methanol to which, while cooling in an ice bath with stirring, was subsequently added 1.617 g (42.75 mmol) of sodium tetrahydroborate in five portions. After 10 minutes of stirring at the same temperature, to this was gradually added saturated ammonium chloride aqueous solution. After evaporation of methanol under a reduced pressure, ethyl acetate was added to the thus obtained residue to effect separation of layers. The resulting organic layer was washed with saturated brine, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure and the resulting residue was purified by a silica gel column chromatography to give 35.61 g (91.2%) of the title compound.

reactant | ethyl 3-[1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutan-3-yl]-3-oxopropionate | C(C1=CC=CC=C1)OC1CC(C1)(NC(=O)OC(C)(C)C)C(CC(=O)OCC)=O | C21H29NO6
reactant | sodium tetrahydroborate | 42.75 mmol, 1.617 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 300 ml | CO | CH4O
product | Ethyl 3-[1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutan-3-yl]-3-hydroxypropionate | 35.61 g, 91.2% | C(C1=CC=CC=C1)OC1CC(C1)(NC(=O)OC(C)(C)C)C(CC(=O)OCC)O | C21H31NO6
